US05112947
The coupling and Nα -deprotection processes were repeated in the same manner to prepare H-Asn-Ser(But)-Pro-Arg(Mtr)-Gly-resin, and then the coupling process using pGlu-OH were performed to obtain pGlu-Asn-Ser(But)-Pro-Arg(Mtr)-Gly-resin. After drying, the resin was stirred in TFA-anisole (10-1 ml) for 4 hours at room temperature. The resin was removed by filtration and was washed with TFA.

reactant | H-Asn-Ser(But)-Pro-Arg(Mtr)-Gly | N[C@@H](CC(N)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(NS(=O)(=O)C2=C(C)C=C(OC)C(C)=C2C)=N)C(=O)NCC(=O)O)CCC1 | C34H55N9O11S
reactant | pGlu-OH | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
product | pGlu-Asn-Ser(But)-Pro-Arg(Mtr)-Gly | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(NS(=O)(=O)C2=C(C)C=C(OC)C(C)=C2C)=N)C(=O)NCC(=O)O)CCC1 | C39H60N10O13S
